datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:15])([H:16])[H:17])[H:14])[H:13])([H:11])[H:12])[H:10])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([C:6]([H:15])([H:16])[H:17])[H:14])[H:13])[H:9])([H:7])[H:8],71.3372
[C:5]([H:6])([H:7])[H:8].[N:0]([O:1][H:4])([H:2])[H:3]>>[H:2][C:5]([H:6])([H:7])[H:8].[N:0]([O:1][H:4])[H:3],26.5684
[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]([H:16])[c:5]2[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]([H:20])[c:10]12)([H:11])([H:12])[H:13].[H:21]>>[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]([H:16])[c:5]2[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]([H:20])[c:10]12)([H:12])[H:13].[H:11][H:21],14.158656
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[O:9]>>[C:0]([C:1]([O:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][O:9],3.665184
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([H:26])([H:27])[H:28]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][C:25]([H:26])([H:27])[H:28],27.6562
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:20][O:21][H:22]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[H:9][O:20][O:21][H:22],58.19944
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])([H:13])[H:14].[C:37](=[O:38])[H:39]>>[C-:37]#[O+:38].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:34])([H:35])[H:36])([H:32])[H:33])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:15])[H:39])([H:12])([H:13])[H:14],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[C:7]([H:19])[H:20])[H:18])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]([H:15])([H:16])[H:17])[C:6](=[C:7]([H:19])[H:20])[H:18])([H:8])[H:9],108.784
[C:0]([C:1]1([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[H:14])([H:6])[H:7]>>[C:0]([C:1]1[C:2]([H:9])([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[H:14])([H:6])([H:7])[H:8],102.679544
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16]([H:21])([H:22])[H:23])[C:17]([H:24])([H:25])[H:26],19.2464
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])([H:23])([H:24])[H:25]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2[H:18].[H:17][C:20]([C:19]([H:23])([H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31],37.2376
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9](=[S:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:14])([H:4])[H:5].[C:7]([C:8]([C:9](=[S:10])[H:16])[H:15])([H:11])([H:12])[H:13],52.7184
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]([C:8]([C:9]([C:10]([C:11]([H:26])([H:27])[H:28])[H:25])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]([H:19])([H:20])[C:8]([H:21])([H:22])[C:9]([H:23])([H:24])[C:10]1([C:11]([H:26])([H:27])[H:28])[H:25])[H:12],38.2418
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][O:39][H:40]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:17][O:38][O:39][H:40],58.19944
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[O:13][O:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:11])[H:12])[H:7])([H:5])[H:6].[H:10][O:13][O:14],193.2677464
